US07060827B2
A mixture of (±)-N4-(3,4-difluorophenyl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine, methylamine Hydrogen Chloride (5 equivalents) and diisopropylethylamine (5 equivalents) in MeOH was shaken in a sealed tube at 80° C. for 24 h. The resulting solution was diluted with water and the precipitate obtained was filtered, washed with water, dried and analyzed to afford (±)-N4-(3,4-difluorophenyl)-5-fluoro-N2-[2,3-dihydro-2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.46 (s, 1H), 9.07 (s, 1H), 8.05 (m, 3H), 7.48 (m, 2H), 7.35 (m, 1H), 7.22 (m, 1H), 6.72 (d, 1H, J=8.1 Hz), 5.07 (dd, 1H, J=6.6 and 6.3 Hz), 3.40 (dd, 1H), 3.15 (dd, 1H), 2.60 (d, 3H, J=4.5 Hz); LCMS: purity: 98%; MS (m/e): 416 (MH+).

reactant | (±)-N4-(3,4-difluorophenyl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine | FC=1C=C(C=CC1F)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C20H15F3N4O3
reactant | methylamine Hydrogen Chloride | 5 equivalents | Cl.CN
reactant | diisopropylethylamine | 5 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | (±)-N4-(3,4-difluorophenyl)-5-fluoro-N2-[2,3-dihydro-2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine | FC=1C=C(C=CC1F)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)NC)C1 | C20H16F3N5O2
